US07402608B2
To the mixture of 4-chlorophenylboronic acid (46.9 mg, 0.3 mmol) and 5-iodo-3-[(trans-4-methyl-cyclohexanecarbonyl)-(1-methyl-piperidin-4-yl)-amino]-thiophene-2-carboxylic acid methyl ester (50 mg, 0.099 mmol), from step 5, in 5:1 mixture of toluene/MeOH (2.0 mL) was added a solution of Pd(PPh3) 4 (12.0 mg, 0.01 mmol, 10 mol %) in toluene (1.0 mL) followed by aqueous 2M Na2CO3 solution (0.1 mL, 0.2 mmol). The resultant reaction mixture was heated at 70° C. for 16 h, cooled to room temperature, filtered off through MgSO4 and washed with EtOAc. Evaporation of the solvent and purification of the residue over preparative TLC (1 mm, 60A°) using DCM/CHCl3/MeOH/Et3N (100:90:16:1) as an eluent furnished 5-(4-chloro-phenyl)-3-[(trans-4-methyl-cyclohexanecarbonyl)-(1-methyl-piperidin-4-yl)-amino-]-thiopene-2-carboxylic acid methyl ester (35.0 mg, 71.5% yield). NMR 1H (CDCl3, 400 MHz): 7.53 (d, J=8.3, 2H), 7.4 (d, J=8.5, 2H), 7.0 (s, 1H), 4.67-4.58 (m, 1H), 3.84 (s, 3H), 2.82-2.64 (m, 1H), 2.2 (s, 3H), 2.14-1.35 (m), 0.763 (d, J=6.6, 3H), 0.76-0.56 (m, 2H).

reactant | 4-chlorophenylboronic acid | 0.3 mmol, 46.9 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | 5-iodo-3-[(trans-4-methyl-cyclohexanecarbonyl)-(1-methyl-piperidin-4-yl)-amino]-thiophene-2-carboxylic acid methyl ester | 0.099 mmol, 50 mg | COC(=O)C=1SC(=CC1N(C1CCN(CC1)C)C(=O)[C@@H]1CC[C@H](CC1)C)I | C20H29IN2O3S
reactant | toluene MeOH | 2.0 mL | C1(=CC=CC=C1)C.CO
reactant | Na2CO3 | 0.2 mmol, 2M, 0.1 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 1.0 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(4-chloro-phenyl)-3-[(trans-4-methyl-cyclohexanecarbonyl)-(1-methyl-piperidin-4-yl)-amino-]-thiopene-2-carboxylic acid methyl ester | 35.0 mg, 71.5% yield | COC(=O)C=1SC(=CC1N(C1CCN(CC1)C)C(=O)[C@@H]1CC[C@H](CC1)C)C1=CC=C(C=C1)Cl | C26H33ClN2O3S
